US06673803B2
A solution of 7-(2-(2-bromoethoxy)ethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (150 mg, 0.32 mmol), (prepared as described for the starting material in Example 63), in pyrrolidine (2 ml) was heated at 80° C. for 5 hours. The mixture was allowed to cool and was partitioned between ethyl acetate and water. The organic layer was washed with water and then brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography on silica eluting with methylene chloride/methanol/triethylamine (80/20/0 followed by 80/20/1). The purified product was dissolved in methylene chloride and 2.9M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed by evaporation, the residue was triturated with ether, collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(2-pyrrolidin-1-ylethoxy)ethoxy)quinazoline hydrochloride (35 mg, 20%).

reactant | 7-(2-(2-bromoethoxy)ethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 0.32 mmol, 150 mg | BrCCOCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C19H18BrClFN3O3
reactant | pyrrolidine | 2 ml | N1CCCC1 | C4H9N
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(2-pyrrolidin-1-ylethoxy)ethoxy)quinazoline hydrochloride | 35 mg, 20% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOCCN2CCCC2)C=C1)F | InChI=1S/C23H26ClFN4O3.ClH/c1-30-21-13-17-20(14-22(21)32-11-10-31-9-8-29-6-2-3-7-29)26-15-27-23(17)28-19-5-4-16(24)12-18(19)25;/h4-5,12-15H,2-3,6-11H2,1H3,(H,26,27,28);1H
